US08633186B2
2-Nitro-6-cyclobutylmethoxybenzonitrile
Prepared as in Example 166d from 2,6-dinitrobenzonitrile and cyclobutylmethanol in 68% as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 1.93 (m, 4H), 2.10 (m, 2H), 2.79 (m, 1H), 4.25 (d, J=6.3 Hz, 2H), 7.74 (dd, J=8.5, 2.2 Hz, 1H), 7.91 (m, 2H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | cyclobutylmethanol | C1(CCC1)CO | C5H10O
product | 2-Nitro-6-cyclobutylmethoxybenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCC1CCC1 | C12H12N2O3
